US08871782B2
A modification of the method described in Example 15 was used to treat 2-butyl-1-methyl-8-(2-piperidin-4-ylethoxy)-1H-imidazo[4,5-c]quinolin-4-amine with cyclopentanecarbonyl chloride. The crude product was purified by column chromatography on silica gel to provide 2-butyl-8-{2-[1-(cyclopentylcarbonyl)piperidin-4-yl]ethoxy}-1-methyl-1H-imidazo[4,5-c]quinolin-4-amine as a white solid, mp 147.2-150.1° C.

reactant | 2-butyl-1-methyl-8-(2-piperidin-4-ylethoxy)-1H-imidazo[4,5-c]quinolin-4-amine | C(CCC)C=1N(C2=C(C(=NC=3C=CC(=CC23)OCCC2CCNCC2)N)N1)C | C22H31N5O
reactant | cyclopentanecarbonyl chloride | C1(CCCC1)C(=O)Cl | C6H9ClO
product | 2-butyl-8-{2-[1-(cyclopentylcarbonyl)piperidin-4-yl]ethoxy}-1-methyl-1H-imidazo[4,5-c]quinolin-4-amine | C(CCC)C=1N(C2=C(C(=NC=3C=CC(=CC23)OCCC2CCN(CC2)C(=O)C2CCCC2)N)N1)C | C28H39N5O2
